US07179819B2
To a cooled (0° C.) solution of methyl (S)-4-(2-amino-1-propoxy)benzoate (790 mg, 3.78 mmol) and Et3 N (630 ml, 4.52 mmol) in THF (10 ml) was added TFAA (640 ml, 4.53 mmol) and the reaction mixture was stirred at room temperature for 4 days. The mixture was diluted with 0.5 N HCl and extracted with CHCl3. The extract was washed with brine, dried over K2CO3, and evaporated. The residue was purified by recrystallization from n-hexane-CHCl3 to give methyl (S)-4-[2-(trifluoroacetamido)-1-propoxy]benzoate (790 mg, 69%) as a white crystalline material. 1H-NMR (CDCl3) δ 1.42 (d, J=6.8 Hz, 3 H), 3.89 (s, 3 H), 4.01–4.13 (m, 2 H), 4.44–4.50 (m, 1 H), 6.57–6.61 (m, 1 H), 6.92 (d, J=9.0 Hz, 2 H), 8.00 (d, J=9.0 Hz, 2 H); MS (FAB) m/z 306 (M++1); Anal. Calcd for C13H14F3NO4: C, 51.15; H, 4.62; F, 18.67; N, 4.59. Found: C, 51.14; H, 4.60; F, 18.50; N, 4.54.

reactant | methyl (S)-4-(2-amino-1-propoxy)benzoate | 3.78 mmol, 790 mg | N[C@H](COC1=CC=C(C(=O)OC)C=C1)C | C11H15NO3
reactant | TFAA | 4.53 mmol, 640 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | HCl | 0.5 N | Cl | ClH
product | methyl (S)-4-[2-(trifluoroacetamido)-1-propoxy]benzoate | 790 mg, 69% | FC(C(=O)N[C@H](COC1=CC=C(C(=O)OC)C=C1)C)(F)F | C13H14F3NO4
